US07901794B2
Next, a mixed solution of 1.3 g of 1,6-bis(4-methylphenyl)pyrene, 0.6 g of N-bromosuccinimide and 30 ml of dimethylformamide was stirred under nitrogen gas stream at a temperature of 60° C. for 5 hours. After cooling the mixed solution to room temperature, 30 ml of water was injected thereinto to extract therefrom with 100 ml of dichloromethane. The organic layer was washed twice with 50 ml of water, dried by magnesium sulfate and thereafter evaporated. The organic layer was recrystallized from toluene and vacuum dried to thereafter obtain 0.7 g of 3-bromo-1,6-bis(4-methylphenyl)pyrene.

reactant | 1,6-bis(4-methylphenyl)pyrene | 1.3 g | CC1=CC=C(C=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C | C30H22
reactant | N-bromosuccinimide | 0.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 3-bromo-1,6-bis(4-methylphenyl)pyrene | 0.7 g | BrC=1C=C(C2=CC=C3C=CC(=C4C=CC1C2=C43)C4=CC=C(C=C4)C)C4=CC=C(C=C4)C | C30H21Br
